US04613610
α-(4-Fluorophenyl)acetophenone (Compounds CII)
5.27 ml. (42 mmoles) of 4-fluorobenzyl bromide (Compound CI) is slowly added to 928 mg. (38 mmoles) of magnesium turnings stirred in 38 ml. of anhydrous diethyl ether under nitrogen over a period of 45 minutes at a rate such that the reaction mixture gently refluxes. The reaction mixture is allowed to cool to 20°-25° C., 2.96 ml. (29 mmoles) of benzonitrile in 5 ml. of anhydrous diethyl ether is added over a period of 5 minutes, and the reaction mixture is stirred at 20°-25° C. for 3 hours, the reaction mixture being maintained under nitrogen throughout. The reaction mixture is slowly poured into ice cold 10% hydrochloric acid, and the organic phase is separated. The aqueous phase is extracted five times with diethyl ether and twice with ethyl acetate, and the organic phases are combined, washed once with saturated sodium bicarbonate solution, washed once with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated at reduced pressure. The residue is dissolved in 450 ml. of hot petroleum ether, and the solution is filtered and cooled to obtain the product as an off-white solid (3.5 g.), m.p. 109°-110° C. A second crop is also obtained (0.39 g.).

reactant | 4-fluorobenzyl bromide | 42 mmoles | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | magnesium | 38 mmoles | [Mg] | Mg
reactant | benzonitrile | 29 mmoles | C(C1=CC=CC=C1)#N | C7H5N
reactant | diethyl ether | C(C)OCC | C4H10O
product | α-(4-Fluorophenyl)acetophenone | 3.5 g | FC1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11FO
